US06476235B2
A nitrogen inerted pressure reactor is charged with 7-[2-(4-fluorophenyl)-5-isopropyl-3-phenyl-4-phenylcarbamoyl-pyrrol-1-yl]-3,5-dioxo-heptanoic acid, ethyl ester (100.0 mmol) and EtOH (250 mL). The resulting slurry is heated with stirring to ca. 55° C. to afford a homogeneous solution. The vessel and its contents are degassed via three 50 psi pressure purges with argon. Under a steady flow of argon, 1 M ethanolic HBr (7.0 mmol) and the RuCl2([(R)—BINAP] NEt3 catalyst (0.5 mmol) are added, and the reactor is given an additional 50 psi pressure purge with argon. The atmosphere is switched to hydrogen via three 50 psi pressure purges. The reaction is stirred vigorously at 65° C. under a sustained pressure of hydrogen (50 psi) until H2 uptake ceases. The reaction is allowed to cool to ca. 50° C., where the hydrogen pressure is released and replaced with nitrogen. The crude EtOH solution of (5R)-7-[2-(4-fluorophenyl)-5-isopropyl-3-phenyl-4-phenylcarbamoyl-pyrrol-1-yl]-3,5-dihydroxy-heptanoic acid, methyl ester is diluted with toluene (250 mL). To this solution is added benzaldehyde (150 mmol) and p-TsOH monohydrate (5 mmol). The resulting reaction mixture is heated to a pot temperature of 110° C., removing EtOH and water via their toluene azeotropes. The solution is cooled under a nitrogen atmosphere to ca. −5° C. where a 1 M THF solution of KOtBu (90 mmol) is added in three equal portions, separated by 30 to 45 minutes. The resulting solution is allowed to stir an additional 12 to 14 hours at 0° C. The reaction is quenched by the slow addition of 1N HCl (100 mL). The resulting two-phase mixture is allowed to warm to ca. 15° C. and is transferred to a separatory funnel where the aqueous phase is removed and discarded. The organic phase is washed with saturated aqueous NaCl (25 mL), dried over anhydrous MgSO4 (5 g), filtered and concentrated in vacuo to a crude oil that is taken up in MeOH (200 mL). This solution is transferred to a nitrogen inerted pressure reactor containing 5% Pd/C (5 g; 50% water-wet). Concentrated HCl (2 mL) is added and the reaction is stirred under a sustained pressure of H2 (50 psi) for ca. 3 hours at 50° C. The reaction mixture is cooled to ambient temperature, the H2 is replaced by N2, and the catalyst is removed via filtration. This solution of (3R,5R)-7-[2-(4-fluorophenyl)-5-isopropyl-3-phenyl-4-phenylcarbamoyl-pyrrol-1-yl]-3,5-dihydroxy-heptanoic acid, methyl ester is transferred to a nitrogen inerted reactor charged with KOH (110.0 mmol) and water (300 mL). The mixture is heated under a nitrogen atmosphere to an internal temperature of ca. 85° C. During this time, MeOH is removed via distillation. The resulting reaction mixture is allowed to cool to 45° C., where it is washed with MtBE (2×150 mL). The MtBE phases are separated and discarded. To the 45° C. aqueous phase is added toluene (125 mL), followed by a slow addition of 6N HCl (20 mL). The two-phase mixture is stirred for 10 minutes and the layers are separated. The aqueous phase is extracted with a second portion of toluene (125 mL) and is discarded. The combined organics are heated to reflux under a Dean-Stark water trap for 2.5 hours under argon. The reaction mixture is cooled to 65° C. and seeded with 5-(4-fluorophenyl)-1-[2-((2R,4R)-4-hydroxy-6-oxo-tetrahydro-pyran-2-yl)-ethyl]-2-isopropyl-4-phenyl-1H-pyrrole-3-carboxylic acid phenylamide. After 2 hours the reaction mixture is allowed to slowly cool to ambient temperature. The resulting slurry is cooled to ca. 0° C. The product is collected and washed with cold toluene (100 mL). The resulting solid is dissolved in hot toluene (350 mL) and cooled to 65° C. where it is held for 2 hours. The reaction mixture is slowly cooled to ambient temperature and then to 0° C. The product is collected, washed with cold toluene (100 mL) and dried in vacuo at 70° C. to afford 5-(4-fluorophenyl)-1-[2-((2R,4R)-4-hydroxy-6-oxo-tetrahydro-pyran-2-yl)-ethyl]-2-isopropyl-4-phenyl-1H-pyrrole-3-carboxylic acid phenylamide as a white solid.

reactant | 7-[2-(4-fluorophenyl)-5-isopropyl-3-phenyl-4-phenylcarbamoyl-pyrrol-1-yl]-3,5-dioxo-heptanoic acid, ethyl ester | 100.0 mmol | FC1=CC=C(C=C1)C=1N(C(=C(C1C1=CC=CC=C1)C(NC1=CC=CC=C1)=O)C(C)C)CCC(CC(CC(=O)OCC)=O)=O | C35H35FN2O5
reactant | HBr | 7.0 mmol, 1 M | Br | BrH
reactant | benzaldehyde | 150 mmol | C(C1=CC=CC=C1)=O | C7H6O
reactant | KOtBu | 90 mmol | CC(C)(C)[O-].[K+]
reactant | KOH | 110.0 mmol | [OH-].[K+]
catalyst | NEt3 | 0.5 mmol | CCN(CC)CC | C6H15N
solvent | water | 300 mL | O | H2O
solvent | THF | 1 M | C1CCOC1 | C4H8O
solvent | EtOH | 250 mL | CCO | C2H6O
product | 5-(4-fluorophenyl)-1-[2-((2R,4R)-4-hydroxy-6-oxo-tetrahydro-pyran-2-yl)-ethyl]-2-isopropyl-4-phenyl-1H-pyrrole-3-carboxylic acid phenylamide | C1(=CC=CC=C1)NC(=O)C1=C(N(C(=C1C1=CC=CC=C1)C1=CC=C(C=C1)F)CC[C@H]1OC(C[C@@H](C1)O)=O)C(C)C | C33H33FN2O4
